US05607956
2 -(4-Methyl-2-thiazolyl)-2-(2-thienyl)tetrahydrofuran
The title compound was prepared from 4-methylthiazole and 4-chloro-1-(2-thienyl)-1-butanone, using the general method of Example 36.

reactant | 4-methylthiazole | CC=1N=CSC1 | C4H5NS
reactant | 4-chloro-1-(2-thienyl)-1-butanone | ClCCCC(=O)C=1SC=CC1 | C8H9ClOS
product | 2 -(4-Methyl-2-thiazolyl)-2-(2-thienyl)tetrahydrofuran | CC=1N=C(SC1)C1(OCCC1)C=1SC=CC1 | C12H13NOS2
